US05308857
2-Furoyl chloride (0.48 g) was added slowly to a solution of 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (0.80 g) in N,N-dimethylformamide (20 ml) with cooling on an ice bath and the mixture was stirred for an hour with cooling on an ice bath. The solvent was removed under reduced pressure and the residue was chromatographed on a silica gel column eluting with a mixture of chloroform and methanol (30:1, (V/V). Recrystallization from methanol afforded 2-(diaminomethyleneamino)-4-[5-(2-furoyl)aminomethylfuran-2-yl]thiazole (0.20 g).

reactant | 2-Furoyl chloride | 0.48 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 0.80 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(diaminomethyleneamino)-4-[5-(2-furoyl)aminomethylfuran-2-yl]thiazole | 0.20 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=O)C=1OC=CC1 | C14H13N5O3S
